US07846959B2
A solution of 2-[(4-amino-3-nitrophenyl)carbonyl]benzoic acid (4.60 g, 16.00 mmol) in methanol (300 mL) in the presence of catalytic amount of cc. sulfuric acid was heated to reflux for 18 h. The solution was cooled to room temperature and the solvent was evaporated. The yellow precipitate formed was collected by filtration, washed with water and dried in vacuo to provide methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate (4.8 g, quantitative). MS (EI) for C15H12N2O5: 301 (MH+).

reactant | 2-[(4-amino-3-nitrophenyl)carbonyl]benzoic acid | 16.00 mmol, 4.60 g | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C14H10N2O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 300 mL | CO | CH4O
product | methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate | 4.8 g | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C15H12N2O5
